US08609687B2
A suspension of 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine (2.8 g, 13.2 mmol, 1 equiv), methyl 4-iodobenzoate (3.4 g, 13 mmol, 1.0 equiv), cesium carbonate (8.4 g, 26 mmol, 2.0 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (763 mg, 1.32 mmol, 0.10 equiv), and palladium (II) acetate (300 mg, 1.32 mmol, 0.10 equiv) in dioxane (100 mL) was heated at 80° C. for 1 h. The reaction mixture was cooled to room temperature and diluted with dichloromethane (100 mL). The resulting solids were filtered and sequentially rinsed with water (3×50 mL) and methanol (2×20 mL). The solids were dried in vacuo to afford methyl 4-(8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoate (3.1 g). 1H NMR (400 MHz, DMSO-d6), δ: 10.42 (s, 1 H), 8.87 (m, 1 H), 7.93 (m, 1 H), 7.92 (d, J=8.8 Hz, 2 H), 7.77 (d, 8.8 Hz, 2 H), 7.00 (dd, J=7.4, 6.9 Hz, 1 H), 3.81 (s, 3 H).

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 13.2 mmol, 2.8 g, 1 equiv | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | methyl 4-iodobenzoate | 13 mmol, 3.4 g, 1.0 equiv | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | cesium carbonate | 26 mmol, 8.4 g, 2.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 1.32 mmol, 763 mg, 0.10 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 1.32 mmol, 300 mg, 0.10 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-(8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoate | 3.1 g | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)OC)C=C2 | C14H11BrN4O2
